US08835637B2
B) Synthesis of 5-[4-(2-Carboxy-ethyl)-phenyl]-pyridine-2-carboxylic acid
Under an argon atmosphere, to 4 ml 1,2-dimethoxyethane are added 5-bromo-pyridine-2-carboxylic acid (93 mg, 0.46 mmol), 4-(2-carboxyethyl)benzeneboronic acid (106 mg, 0.55 mmol), 0.51 ml of a 2M aqueous sodium carbonate solution and dichlorobis-(triphenylphosphin) palladium (II) (20 mg, 0.03 mmol). The mixture is stirred at 90° C. overnight, cooled and quenched with water. Ethyl acetate is added and the mixture adjusted to pH=2 with 1M hydrochloric acid. After threefold extraction with ethyl acetate, the combined organic layers are dried over magnesium sulfate, filtered, and evaporated in vacuo. The residue is purified by silica gel chromatography (eluent:dichloromethane/methanol 5:1).

reactant | 5-bromo-pyridine-2-carboxylic acid | 0.46 mmol, 93 mg | BrC=1C=CC(=NC1)C(=O)O | C6H4BrNO2
reactant | 4-(2-carboxyethyl)benzeneboronic acid | 0.55 mmol, 106 mg | C(=O)(O)CCC1=CC=C(C=C1)B(O)O | C9H11BO4
reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 4 ml | COCCOC | C4H10O2
product | 5-[4-(2-Carboxy-ethyl)-phenyl]-pyridine-2-carboxylic acid | C(=O)(O)CCC1=CC=C(C=C1)C=1C=CC(=NC1)C(=O)O | C15H13NO4
